US05698696
A mixture of phenol 5-hydroxy-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-3-one (7.16 g, 32.54 mmol), dimethylsulfate (6.16 g, 48.8 mmol) and potassium carbonate (13.5 g, 97.63 mmol) in acetone (160 mL) is refluxed under nitrogen for 3 days. After cooling, 3N sodium hydroxide (100 mL) is added and most of the acetone is evaporated under reduced pressure. The mixture is extracted with ethyl acetate (200 mL) and the organic layer is washed with 3N sodium hydroxide (2×100 mL), water, brine, dried (magnesium sulfate)and evaporated to dryness to give 7.52 g (99%) of 5-methoxy-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-3-one as a yellow solid which is used without purification for the next step. Rf=0.4 (heptane/ethyl acetate 90:10)

reactant | phenol 5-hydroxy-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-3-one | 32.54 mmol, 7.16 g | OC=1C(=C(C2=C(C(C(O2)(C)C)=O)C1C)C)C.C1(=CC=CC=C1)O
reactant | dimethylsulfate | 48.8 mmol, 6.16 g | COS(=O)(=O)OC | C2H6O4S
reactant | potassium carbonate | 97.63 mmol, 13.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium hydroxide | 3N, 100 mL | [OH-].[Na+]
solvent | acetone | 160 mL | CC(=O)C | C3H6O
product | 5-methoxy-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-3-one | 7.52 g, 99% | COC=1C(=C(C2=C(C(C(O2)(C)C)=O)C1C)C)C | C14H18O3
